US07872031B2
Ethyl 2-(furan-2-yl)-2-oxoacetate (15.5 g, 92.1 mmol) in ethanol (500 mL) and water (25 mL) at 0° C. was treated with sodium borohydride (1.74 g, 46.05 mmol). The mixture was stirred for 15 minutes, at which point acetic acid (10 mL) was slowly added. After the cessation of gas evolution, water (100 mL) was carefully added, and the reaction mixture was concentrated. The residue was dissolved in methylene chloride and washed with brine. The crude product was dried and concentrated to give ethyl 2-(furan-2-yl)-2-hydroxyacetate as a pale brown viscous oil (11.05 g, 71%) which was used without further purification.

reactant | Ethyl 2-(furan-2-yl)-2-oxoacetate | 92.1 mmol, 15.5 g | O1C(=CC=C1)C(C(=O)OCC)=O | C8H8O4
reactant | sodium borohydride | 46.05 mmol, 1.74 g | [BH4-].[Na+]
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | ethyl 2-(furan-2-yl)-2-hydroxyacetate | 11.05 g, 71% | O1C(=CC=C1)C(C(=O)OCC)O | C8H10O4
